US07109219B2
N1-Methyl-5-(2-amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide
2-Amino-4-chloro-5-cyanopyridine (123 mg, 0.80 mmol) synthesized in Production example 215-3, ethoxyethanol (3 ml) and pyridine hydrochloride (186 mg, 1.60 mmol) were added to N1-methyl-5-amino-1H-1-indolecarboxamide (198 mg, 1.05 mmol) synthesized in Production example 218-2; and the reaction mixture was stirred at 130° C. for 3 hours. After allowing to be cooled to room temperature, the reaction mixture was partitioned between a saturated aqueous solution of sodium hydrogencarbonate and ethyl acetate; and the organic layer was washed with water and brine, dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate, ethyl acetate in this order) to yield the title compound (110 mg, 0.359 mmol).

reactant | 2-Amino-4-chloro-5-cyanopyridine | 0.80 mmol, 123 mg | NC1=NC=C(C(=C1)Cl)C#N | C6H4ClN3
reactant | ethoxyethanol | 3 ml | C(C)OC(C)O | C4H10O2
reactant | pyridine hydrochloride | 1.60 mmol, 186 mg | Cl.N1=CC=CC=C1
reactant | N1-methyl-5-amino-1H-1-indolecarboxamide | 1.05 mmol, 198 mg | CNC(=O)N1C=CC2=CC(=CC=C12)N | C10H11N3O
product | N1-Methyl-5-(2-amino-5-cyano-4-pyridyl)amino-1H-1-indolecarboxamide | 0.359 mmol, 110 mg | CNC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1C#N)N | C16H14N6O
